US03969384
To 60 ml. anhydrous ether and 1.5 g. 7-cyclopropylheptanoyl chloride is added 1.2 g. 2-decyn-1-ol. The mixture is cooled to 0° and 0.8 ml. pyridine is added. The solution is stirred at room temperature for 1 day. The product is worked up using the procedure of Example 1C to yield 2-decynyl 7-cyclopropylheptanoate.

reactant | ether | CCOCC | C4H10O
reactant | 7-cyclopropylheptanoyl chloride | C1(CC1)CCCCCCC(=O)Cl | C10H17ClO
reactant | 2-decyn-1-ol | C(C#CCCCCCCC)O | C10H18O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-decynyl 7-cyclopropylheptanoate | C1(CC1)CCCCCCC(=O)OCC#CCCCCCCC | C20H34O2
